US04096263
A solution of 4-aminopyridine (23.2 g.) in a mixture of dried hexamethylphosphoric triamide (45 g.) and dried dimethylformamide (80 ml) was dropwise added over 20 minutes with stirring and ice-cooling to a suspension of 65.5% sodium hydride (10 g.) in dried dimethylformamide (20 ml.). After dried dimethylformamide (20 ml.) was further added thereto, the mixture was stirred for 1 hour under ice-cooling, for 20 minutes at ambient temperature and for 40 minutes at 50° C. A solution of bromoacetaldehyde diethyl acetal (54 g.) in dried dimethylformamide (20 ml.) was dropwise added thereto over 5 minutes at 50° C. The resulting mixture was stirred for 15 hours at 80° C and for 3 hours at 100° C. After cooling, water was added to the reaction mixture and the resulting mixture was concentrated under reduced pressure to remove dimethylformamide. To the residue was added water and the mixture was extracted with ethyl acetate. The extract was in turn washed 3 times with water and once with a saturated sodium chloride aqueous solution and dried over magnesium sulfate. The solvent was distilled off under reduced pressure and the residual oil was purified by column chromatography on alumina (300 g.) using a mixture of ethyl acetate and hexane (1 : 1) as a developing solvent to give oil of 4-pyridylaminoacetaldehyde diethyl acetal (7.0 g.).

reactant | 4-aminopyridine | 23.2 g | NC1=CC=NC=C1 | C5H6N2
reactant | hexamethylphosphoric triamide | 45 g | CN(P(N(C)C)(N(C)C)=O)C | C6H18N3OP
reactant | sodium hydride | 10 g | [H-].[Na+]
reactant | bromoacetaldehyde diethyl acetal | 54 g | C(C)OC(CBr)OCC | C6H13BrO2
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 80 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 4-pyridylaminoacetaldehyde diethyl acetal | 7.0 g | C(C)OC(CNC1=CC=NC=C1)OCC | C11H18N2O2
